US07858632B2
To a solution of toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester (19.00 g, 59 mmol) in 118 mL AcOH was added 236 ml fuming HNO3 over 20 min. After 16 h the solution was pouring into a rapidly stirring slurry of 2 l of ice/H2O. After 15 min the precipitate was filtered, washed with H2O and dried under vacuum (50° C.) to give toluene-4-sulfonic acid 2-isopropyl-4-methoxy-5-nitro-phenyl ester (21.27 g, 98%) and toluene-4-sulfonic acid 2-isopropyl-4-methoxy-3-nitro-phenyl ester and as a pale yellow solid (7:1 inseperable mixture).

reactant | toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester | 59 mmol, 19.00 g | C(C)(C)C1=C(C=CC(=C1)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C17H20O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 118 mL | CC(=O)O | C2H4O2
product | toluene-4-sulfonic acid 2-isopropyl-4-methoxy-5-nitro-phenyl ester | 21.27 g, 98% | C(C)(C)C1=C(C=C(C(=C1)OC)[N+](=O)[O-])OS(=O)(=O)C1=CC=C(C=C1)C | C17H19NO6S
